US05407897
Preparation of 6-Chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylic acid
A mixture of tin(II) chloride dihydrate (115.42 g, 0.51 mol) and 6-chloro-3,4-dihydro-4-(trimethylsiloxy)-2H-1-benzothiopyran-4-carbonitrile (37.53 g, 0.126 mol) in 1:1 acetic acid/concentrated hydrochloric acid is heated at reflux under nitrogen for 3 days, cooled to room temperature and diluted with chloroform. The aqueous phase is separated and extracted with chloroform. The organic phase and organic extracts are combined and extracted with 2N sodium hydroxide solution. The combined aqueous extracts are washed with chloroform and acidified to pH 3. The acidic aqueous mixture is extracted with chloroform and the combined organic extracts are dried and concentrated in vacuo to obtain a residue. The residue is triturated with an ether/petroleum ether mixture and filtered to give the title product as an off-white solid (12.56 g, mp 139°-150° C.).

reactant | tin(II) chloride dihydrate | 0.51 mol, 115.42 g | O.O.[Sn](Cl)Cl
reactant | 6-chloro-3,4-dihydro-4-(trimethylsiloxy)-2H-1-benzothiopyran-4-carbonitrile | 0.126 mol, 37.53 g | ClC=1C=CC2=C(C(CCS2)(C#N)O[Si](C)(C)C)C1 | C13H16ClNOSSi
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylic acid | 12.56 g | ClC=1C=CC2=C(C(CCS2)C(=O)O)C1 | C10H9ClO2S
